US07528129B2
(R)-1-(4-formyloxy-3,5-dimethyl-benzyl)-2-oxo-2-[4-(tetrahydropyran-4-yl)-piperazin-1-yl]-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A solution of 25 μL acetic anhydride and 0.5 mL formic acid in 1 mL DCM was stirred for 2 h at RT (formation of the mixed anhydride). Then 38 mg (0.06 mmol) (R)-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-2-[4-(tetrahydropyran-4-yl)-piperazin-1-yl]-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate was added (Example 7i) and the reaction mixture was stirred overnight at RT. The reaction solution was evaporated down and the residue was again added to a solution of the mixed anhydride and stirred overnight at RT. The mixture was evaporated down i.vac. and the residue was purified by HPLC. The fractions containing the product were combined and lyophilised.

reactant | acetic anhydride | 25 μL | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 0.5 mL | C(=O)O | CH2O2
reactant | (R)-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-2-[4-(tetrahydropyran-4-yl)-piperazin-1-yl]-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.06 mmol, 38 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(N1CCN(CC1)C1CCOCC1)=O)CC1=CC(=C(C(=C1)C)O)C)C=CC=C2 | C35H47N5O6
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (R)-1-(4-formyloxy-3,5-dimethyl-benzyl)-2-oxo-2-[4-(tetrahydropyran-4-yl)-piperazin-1-yl]-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(N1CCN(CC1)C1CCOCC1)=O)CC1=CC(=C(C(=C1)C)OC=O)C)C=CC=C2 | C36H47N5O7
